US07034029B2
Preparation of 1-(Phenylsulfonyl)-4-(1-piperazinyl)-1H-indazole hydrochloride
A solution of 1-phenylsulfonyl-4-(4-benzylpiperazin-1-yl)-1H-indazole (433 mg, 1.0 mmol) in 1,2-dichloroethane is treated with 1-chloroethyl chloroformate (0.27 mL, 2.5 mmol) heated at reflux temperature for 2 hr, and concentrated in vacuo. The resultant residue is heated at reflux temperature in methanol for 1.5 hr, cooled, concentrated in vacuo and reconcentrated from ether. The resulting tan solid is triturated with ether and crystallized from hot ethanol to give the title compound as a tan solid 237 mg (63% yield), mp 203–205° C., identified by HNMR and mass spectral analyses.

reactant | 1-phenylsulfonyl-4-(4-benzylpiperazin-1-yl)-1H-indazole | 1.0 mmol, 433 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=CC=C12)N1CCN(CC1)CC1=CC=CC=C1 | C24H24N4O2S
reactant | 1-chloroethyl chloroformate | 2.5 mmol, 0.27 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(Phenylsulfonyl)-4-(1-piperazinyl)-1H-indazole hydrochloride | 237 mg, 63% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C17H18N4O2S.ClH/c22-24(23,14-5-2-1-3-6-14)21-17-8-4-7-16(15(17)13-19-21)20-11-9-18-10-12-20;/h1-8,13,18H,9-12H2;1H
